US06268500B1
A crude nitration mixture (50 g) created in the manner of Preparation I was dissolved in 500 mL of ethyl acetate. Approximately 10.4 g (0.29 mole) of hydrogen chloride gas was added giving a yellow precipitate. (Note: The amount of hydrogen chloride gas added could only be approximated as it was measured by weighing the flask.) This precipitate was analyzed and found to contain 5-nitroquinoline hydrochloride and 8-nitroquinoline hydrochloride in a ratio of 51:41. The precipitate was collected by filtration and dried affording 54 g. The crude product was suspended in 270 mL of wet dimethylformamide (0.5 parts water in 99.5 parts dimethylformamide) to form a slurry. The slurry was heated to dissolution (95° C.-100° C.) to form a solution and this solution was cooled to 25° C. Crystallization of a cream colored solid commenced at about 85° C.-95° C. The solid was collected by filtration, washed with ethyl acetate (2×25 mL) and dried and found to be 99.0% 5-nitroquinoline hydrochloride and 0.41% 8-nitroquinoline hydrochloride. The yield of 5-nitroquinoline hydrochloride was 20.8 g (34.5% overall yield from quinoline).

reactant | hydrogen chloride | 0.29 mole, 10.4 g | Cl | ClH
reactant | 5-nitroquinoline hydrochloride | Cl.[N+](=O)([O-])C1=C2C=CC=NC2=CC=C1
reactant | 8-nitroquinoline hydrochloride | Cl.[N+](=O)([O-])C=1C=CC=C2C=CC=NC12
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 270 mL | CN(C=O)C | C3H7NO
product | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
